US07754732B2
3 (S)-Benzo[b]thiophen-3-ylmethyl-4-[1,4′]bipiperidinyl-1′-yl-4-oxo-butyric acid tert-butyl ester
A solution of 2-benzo[b]thiophen-3-ylmethyl-succinic acid 4-tert-butyl ester (1.8420 g, 5.76 mmol), piperidylpiperidine (1.2240 g, 7.28 mmol) and triethylamine (0.7353 g, 7.28 mmol) in 100 mL methylene chloride was treated with 3-(diethoxyphosphoryloxy)-1,2,3-benzotriazin-4(3H)-one (DEPBT, 1.8953 g, 6.34 mmol). The mixture was stirred overnight and then washed with water (3×40 mL). The organic layer was dried, filtered, and concentrated in vacuo to give the crude product. This was further purified by flash chromatography on silica gel, eluting with 0-10% 2 M ammonia in methanol/methylene chloride, to give the desired product. This product was carried on without further purification.

reactant | 2-benzo[b]thiophen-3-ylmethyl-succinic acid 4-tert-butyl ester | 5.76 mmol, 1.8420 g | C(C)(C)(C)OC(CC(C(=O)O)CC=1C2=C(SC1)C=CC=C2)=O | C17H20O4S
reactant | piperidylpiperidine | 7.28 mmol, 1.2240 g | N1(CCCCC1)N1CCCCC1 | C10H20N2
reactant | triethylamine | 7.28 mmol, 0.7353 g | C(C)N(CC)CC | C6H15N
reactant | 3-(diethoxyphosphoryloxy)-1,2,3-benzotriazin-4(3H)-one | 6.34 mmol, 1.8953 g | C(C)OP(=O)(OCC)ON1N=NC2=C(C1=O)C=CC=C2 | C11H14N3O5P
reactant | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-Benzo[b]thiophen-3-ylmethyl-4-[1,4′]bipiperidinyl-1′-yl-4-oxo-butyric acid tert-butyl ester | C(C)(C)(C)OC([C@H](CC(=O)N1CCC(CC1)N1CCCCC1)CC=1C2=C(SC1)C=CC=C2)=O | C27H38N2O3S
